US09210927B2
Preparation of Ethyl 2-(1-oxo-6-vinylphthalazin-2(1H)-yl)acetate (BI24)
To a stirred solution of 6-vinylphthalazine-1(2H)-one (0.5 g, 2.90 mmol) in DMF (5.0 mL) was added Cs2CO3 (0.94 g, 2.90 mmol) and the reaction was stirred for 10 min Ethyl bromoacetate (0.48 g, 2.90 mmol) was added to the reaction mixture at ambient temperature and the reaction was stirred for 8 h at ambient temperature. The reaction mixture was diluted and extracted with ethyl acetate, and the ethyl acetate layer was washed with water and brine solution (2×). The separated ethyl acetate layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to afford crude product. The crude compound was purified by column chromatography (SiO2, 100-200 mesh; 25% ethyl acetate/petroleum ether) to afford the title compound as a brown solid (0.34 g, 45%): 1H NMR (400 MHz, DMSO-d6) δ 8.45 (m, 1H), 8.24 (m, 1H), 8.04 (m, 2H), 7.01 (m, 1H), 6.17 (d, J=2.1 Hz, 1H), 5.56 (d, J=10.8 Hz, 1H), 4.92 (s, 2H), 4.19 (m, 2H), 1.23 (m, 3H). ESIMS m/z 259.10 ([M+H]±); IR (thin film) 1750, 1660 cm−1.

reactant | 6-vinylphthalazine-1(2H)-one | 2.90 mmol, 0.5 g | C(=C)C=1C=C2C=NNC(C2=CC1)=O | C10H8N2O
reactant | Cs2CO3 | 2.90 mmol, 0.94 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Ethyl bromoacetate | 2.90 mmol, 0.48 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-(1-oxo-6-vinylphthalazin-2(1H)-yl)acetate | 0.34 g, 45% | O=C1N(N=CC2=CC(=CC=C12)C=C)CC(=O)OCC | C14H14N2O3
